US07582773B2
Step 2: Synthesis of [4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester (0.281 g, 0.543 mmol) was reacted with 1N KOH (1.1 ml) in THF/MeOH (6 ml/4 ml) to give the product (0.177 g, 0.351 mmol, 65%) as a white solid, mp 141-143° C. 1H NMR (DMSO-d6) δ 0.76 (t, J=6.7 Hz, 3H), 1.13-1.22 (m, 4H), 1.53-1.59 (m, 2H), 2.68 (t, J=7.6 Hz, 2H), 4.69 (s, 2H), 5.27 (s, 2H), 6.84 (d, J=7.5 Hz, 2H), 6.98 (d, J=8.7 Hz, 2H), 7.14 (t, J=7.2 Hz, 1H), 7.20 (t, J=7.0 Hz, 2H), 7.33-7.38 (m, 4H), 7.43 (t, J=7.2 Hz, 1H), 7.48 (t, J=6.9 Hz, 2H), 7.59 (d, J=8.6 Hz, 2H), 7.75 (s, 1H), 13.00 (broad s, 1H); IR (solid) 3030, 2910, 2860, 1750, 1605, 1520, 1470, 1440, and 1230 cm−1; [ESI(−)], m/z 503 (M−H)−; Anal. Calcd. for C34H33NO3.0.25H2O: C, 80.37; H, 6.64; N, 2.76; Found: C, 80.55, H, 6.58; N, 2.70.

reactant | [4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | 0.543 mmol, 0.281 g | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C1=CC=CC=C1)CCCCC)=O | C35H35NO3
reactant | KOH | 1N, 1.1 ml | [OH-].[K+]
solvent | THF MeOH | 6 ml | C1CCOC1.CO
product | [4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC(=O)O)C=C1)CCCCC)C1=CC=CC=C1 | C34H33NO3
